* C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\Simulating_FF_try.asc
XX1 N001 N008 VDD N004 N007 flipflop
V1 N008 0 PULSE(0 5 0 1n 1n 10u 20u 100)
V2 VDD 0 5
XX5 N001 N002 VDD invslow
XX6 N002 N003 VDD invslow
XX2 N004 VDD N005 inverter
XX3 N005 VDD N006 inverter
XX4 N006 VDD N003 inverter

* block symbol definitions
.subckt flipflop D CLK VDD Q Qbar
XX1 N009 D VDD inv
XX2 N005 CLK VDD invslow
XX5 N004 Qbar VDD Q nand
XX6 N006 Q VDD Qbar nand
XX3 D CLK VDD N002 nand
XX7 N003 N002 VDD inv
XX4 CLK N009 VDD N007 nand
XX9 N008 N007 VDD inv
XX8 N003 N005 VDD N004 nand
XX10 N005 N008 VDD N006 nand
.ends flipflop

.subckt invslow INV Vin VDD
M1 INV Vin 0 0 W2018N W=0.5u L=10u
M2 INV Vin VDD VDD W2018P W=0.5u L=30u
.ends invslow

.subckt inverter Vin VDD Vout
M1 Vout Vin VDD VDD RIT4007P7
M2 Vout Vin 0 0 RIT4007N7
.inc "C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\CD4007.mod"
.ends inverter

.subckt inv INV Vin VDD
M1 INV Vin 0 0 NMOS
M2 INV Vin VDD VDD PMOS
.ends inv

.subckt nand A B VDD NAND
M1 NAND A N001 N001 W2018N W=1.65u L=1u
M2 NAND A VDD VDD W2018P W=10u L=1u
M3 N001 B 0 0 W2018N W=1.65u L=1u
M4 NAND B VDD VDD W2018P W=10u L=1u
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\colle\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 200u
.inc "C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\FinalFiles\CD4009.mod"
.backanno
.end
