* C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\Final_proj_3-17\FlipFlopTEST.asc
XX1 N001 CLK VDD N004 N007 flipflop
V1 CLK 0 PULSE(0 5 0 1n 1n 10u 20u 100)
V2 VDD 0 5
XX2 N005 N004 VDD inv
XX3 N006 N005 VDD invslow
XX4 N003 N006 VDD invslow
XX5 N001 N002 VDD invslow
XX6 N002 N003 VDD invslow

* block symbol definitions
.subckt flipflop D CLK VDD Q Qbar
XX1 N009 D VDD inv
XX2 N005 CLK VDD invslow
XX5 N004 Qbar VDD Q nand
XX6 N006 Q VDD Qbar nand
XX3 D CLK VDD N002 nand
XX7 N003 N002 VDD inv
XX4 CLK N009 VDD N007 nand
XX9 N008 N007 VDD inv
XX8 N003 N005 VDD N004 nand
XX10 N005 N008 VDD N006 nand
.ends flipflop

.subckt inv INV Vin VDD
M1 INV Vin 0 0 NMOS
M2 INV Vin VDD VDD PMOS
.ends inv

.subckt invslow INV Vin VDD
M1 INV Vin 0 0 W2018N W=0.5u L=10u
M2 INV Vin VDD VDD W2018P W=0.5u L=30u
.ends invslow

.subckt nand A B VDD NAND
M1 NAND A N001 N001 W2018N W=1.65u L=1u
M2 NAND A VDD VDD W2018P W=10u L=1u
M3 N001 B 0 0 W2018N W=1.65u L=1u
M4 NAND B VDD VDD W2018P W=10u L=1u
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\colle\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 200u
*Tina'z W2018 models
.MODEL W2018N NMOS (LEVEL=7 TOX=8e-9 U0 = 1300
+CGSO=3.4E-10 CGDO=3.4E-10 CJ=6.8e-4 CJSW=1.26e-10
+MJ=0.5 MJSW=0.5 CGBO=5.75E-10 RSH=33.8)
.MODEL W2018P PMOS (LEVEL=7 TOX=8e-9 CGDO=5.3752E-11
+U0= 440 CGSO=5.3752E-11 CGBO=3.3650E-10 CJ=4.8447E-04
+MJ=0.5027 CJSW=1.6457E-10 MJSW=0.217168 RSH=29.8)
.backanno
.end
