* C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\FinalFiles\FSMIdealClockTEST.asc
V2 CLK 0 PULSE(0 5 0 1n 1n 10u 20u 100)
V1 VDD 0 5
XX12 N002 N001 VDD invslow
XX15 N001 N[1] VDD invslow
XX13 N005 N004 VDD invslow
XX16 N004 N[2] VDD invslow
XX1 N[0] P[0] VDD inv
XX2 P[1] P[0] VDD N[1] xor
XX3 P[2] P[0] VDD N003 xor
XX4 N003 P[1] VDD N006 and
XX6 N010 P[1] VDD inv
XX5 N010 P[2] VDD N009 and
XX7 N009 N006 VDD N008 nor
XX17 N[2] N008 VDD inv
XX9 N005 CLK VDD P[2] N007 flipflop
XX10 N002 CLK VDD P[1] NC_01 flipflop
XX11 N[0] CLK VDD P[0] NC_02 flipflop

* block symbol definitions
.subckt invslow INV Vin VDD
M1 INV Vin 0 0 W2018N W=0.5u L=10u
M2 INV Vin VDD VDD W2018P W=0.5u L=30u
.ends invslow

.subckt inv INV Vin VDD
M1 INV Vin 0 0 NMOS
M2 INV Vin VDD VDD PMOS
.ends inv

.subckt xor A B VDD XOR
XX1 Ab B VDD N001 nand
XX3 Bb A VDD N002 nand
XX4 Ab A VDD inv
XX5 Bb B VDD inv
XX2 N001 N002 VDD XOR nand
.ends xor

.subckt and A B VDD AND
XX1 A B VDD N001 nand
XX2 AND N001 VDD inv
.ends and

.subckt nor A B VDD NOR
M1 NOR A 0 0 W2018N W=1.65u L=1u
M2 NOR A P001 P001 W2018P W=10u L=1u
M3 NOR B 0 0 W2018N W=1.65u L=1u
M4 P001 B VDD VDD W2018P W=10u L=1u
.ends nor

.subckt flipflop D CLK VDD Q Qbar
XX1 N009 D VDD inv
XX2 N005 CLK VDD invslow
XX5 N004 Qbar VDD Q nand
XX6 N006 Q VDD Qbar nand
XX3 D CLK VDD N002 nand
XX7 N003 N002 VDD inv
XX4 CLK N009 VDD N007 nand
XX9 N008 N007 VDD inv
XX8 N003 N005 VDD N004 nand
XX10 N005 N008 VDD N006 nand
.ends flipflop

.subckt nand A B VDD NAND
M1 NAND A N001 N001 W2018N W=1.65u L=1u
M2 NAND A VDD VDD W2018P W=10u L=1u
M3 N001 B 0 0 W2018N W=1.65u L=1u
M4 NAND B VDD VDD W2018P W=10u L=1u
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\colle\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 200u uic
*Tina'z W2018 models
.MODEL W2018N NMOS (LEVEL=7 TOX=8e-9 U0 = 1300
+CGSO=3.4E-10 CGDO=3.4E-10 CJ=6.8e-4 CJSW=1.26e-10
+MJ=0.5 MJSW=0.5 CGBO=5.75E-10 RSH=33.8)
.MODEL W2018P PMOS (LEVEL=7 TOX=8e-9 CGDO=5.3752E-11
+U0= 440 CGSO=5.3752E-11 CGBO=3.3650E-10 CJ=4.8447E-04
+MJ=0.5027 CJSW=1.6457E-10 MJSW=0.217168 RSH=29.8)
.backanno
.end
